US04921852
To a solution of (2S,4R)-2-[2-(dimethoxymethyl)thiazol-4-yl]-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (2.6 g) in acetone (100 ml) was added p-toluenesulfonic acid (0.49 g) at room temperature. After stirring under reflux for 1 hour, the mixture was evaporated. The residue was dissolved in ethyl acetate, washed in turn with saturated aqueous sodium bicarbonate and brine, and dried over magnesium sulfate. The organic layer was evaporated to give (2S,4R)-2-(2-formylthiazol -yl)-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl) -pyrrolidine (2.26 g).

reactant | (2S,4R)-2-[2-(dimethoxymethyl)thiazol-4-yl]-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 2.6 g | COC(C=1SC=C(N1)[C@H]1N(C[C@@H](C1)OS(=O)(=O)C)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])OC | C19H23N3O9S2
reactant | p-toluenesulfonic acid | 0.49 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | (2S,4R)-2-(2-formylthiazol -yl)-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl) -pyrrolidine | 2.26 g | C(=O)C=1SC=C(N1)[C@H]1N(C[C@@H](C1)OS(=O)(=O)C)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C17H17N3O8S2
